US07314872B2
(R)-2-(Cyclohexylmethyl)succinic acid-1-methyl ester (211 mg, 0.93 mmol) from Acros Organics was treated with (500 μL, 2.87 mmol, 3.1 eq.) of diisopropylethylamine, HATU (360 mg, 1.096 mmol, 1.2 eq.) and (N-(4-Fluoro-phenyl)-ethane-1,2-diamine) (210 mg, 0.93 mmol, 1 eq.). The reagents were dissolved in dry dichloromethane (5 mL). The reaction was allowed to stir for 5 hours and monitored by LC/MS. Volatiles were removed and the reaction directly purified by automated normal-phase chromatography (0-100% ethyl acetate in hexanes gradient). (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid methyl ester was obtained as clear oil (220 mg, 0.60 mmol, 65%).

reactant | (R)-2-(Cyclohexylmethyl)succinic acid-1-methyl ester | 0.93 mmol, 211 mg | COC([C@@H](CC(=O)O)CC1CCCCC1)=O | C12H20O4
reactant | diisopropylethylamine | 2.87 mmol, 500 μL, 3.1 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.096 mmol, 360 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(4-Fluoro-phenyl)-ethane-1,2-diamine | FC1=CC=C(C=C1)NCCN | C8H11FN2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid methyl ester | COC([C@@H](CC(=O)NCCNC1=CC=C(C=C1)F)CC1CCCCC1)=O | C20H29FN2O3
